US04933333
2.3 g of 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-t-butoxycarbonyl-3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone was dissolved in 120 ml of dried methylene chloride, and 10 ml of trifluoroacetic acid was added to the solution, followed by stirring at room temperature for 1 hour. The reaction mixture was washed with an aqueous solution of sodium bicarbonate and then with water, dried over sodium sulfate and distilled off to remove the solvent. The residue was purified by silica gel chromatography to obtain 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-t-butoxycarbonyl-3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone | 2.3 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C46H49N3O15
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxopropyl]-2-azetidinone | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C41H41N3O13
